US07291643B2
N-(4-bromophenyl)ethanesulfonamide
A mixture of ethanesulfonyl chloride (2.1 mL, 22 mmol), and 4-bromoaniline (3.44 g, 20 mmol) in pyridine (35 mL) was stirred at room temperature for 2 hours. The reaction mixture was acidified with 1N HCl solution and extracted with ether. The combined organic layers were dried over magnesium sulfate, and concentrated. The solid was triturated with hexane to afford the title compound (4.85 g, 92%).

reactant | ethanesulfonyl chloride | 22 mmol, 2.1 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 4-bromoaniline | 20 mmol, 3.44 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 35 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-bromophenyl)ethanesulfonamide | 4.85 g, 92% | BrC1=CC=C(C=C1)NS(=O)(=O)CC | C8H10BrNO2S
